US07060827B2
N2,N4-Bis(3-aminophenyl)-5-fluoro-2,4-pyrimidinediamine was treated with 2 equivalents of HCl in dioxane. The volatiles were removed under reduced pressure to give N2,N4-bis(3-aminophenyl)-5-fluoro-2,4-pyrimidinediamine hydrogen chloride salt. LCMS: ret. time: 9.74 min.; purity: 91.3%; MS (m/e): 311.06 (MH+).

reactant | N2,N4-Bis(3-aminophenyl)-5-fluoro-2,4-pyrimidinediamine | NC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)N)F | C16H15FN6
reactant | HCl | 2 equivalents | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N2,N4-bis(3-aminophenyl)-5-fluoro-2,4-pyrimidinediamine hydrogen chloride salt | Cl.NC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)N)F | InChI=1S/C16H15FN6.ClH/c17-14-9-20-16(22-13-6-2-4-11(19)8-13)23-15(14)21-12-5-1-3-10(18)7-12;/h1-9H,18-19H2,(H2,20,21,22,23);1H
